US07005432B2
5-Methoxy-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine (4.25 g, 21 mmol) was dissolved in dioxane (65 ml) and 2N NaOH (42 ml) was added. The mixture was refluxed for 7 hours, cooled to room temperature and quenched with 2N HCl (65 ml). The pH was adjusted to 8 with saturated solution of NaHCO3. The solvent was removed in vacuo and the residue was taken in MeOH (100 ml). After filtration, the solvent was removed in vacuo and diluted with MeOH (50 ml). Silicagel (10 g) was added and the solvent was evaporated. The residue was chromatographed over silica gel (CH2Cl2—MeOH 9:1, 4:1, 2:1) to provide 6-(2-methyl-imidazol-1-yl-methyl)-1H-pyridazin-4-one (4.1 g, 100%) as a pale yellow solid, MS: m/e=191.3 (M+H+).

reactant | 5-Methoxy-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine | 21 mmol, 4.25 g | COC=1C=C(N=NC1)CN1C(=NC=C1)C | C10H12N4O
reactant | NaOH | 2N, 42 ml | [OH-].[Na+]
solvent | dioxane | 65 ml | O1CCOCC1 | C4H8O2
product | 6-(2-methyl-imidazol-1-yl-methyl)-1H-pyridazin-4-one | 4.1 g, 100% | CC=1N(C=CN1)CC1=CC(C=NN1)=O | C9H10N4O
